US07465730B2
To a Personal Chemistry Microwave Synthesizer microwave vial was combined 1-chloro-6-(4-ethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine (200 mg, 0.64 mmol), MeNH2 (1 mL, 40% in H2O), and EtOH (1 mL). The vial was sealed and heated at 120° C. for 12 min. The reaction mixture was poured into water to afford crude 6-(4-ethoxyphenyl)-N,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazin-1-amine. Purification by reverse phase preparative HPLC using a YMC CombiPrep Pro C1820×100 column (Gradient: 5%-100% Acetonitrile in a H2O+0.1% TFA solution over 10 min, retention time: 6.1 min) afforded pure 6-(4-ethoxyphenyl)-N,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazin-1-amine as a colorless solid: 1H NMR (CDCl3, 500 MHz) δ 7.05-7.12 (m, 4H), 4.16 (q, 2H), 3.20 (s, 3H), 2.69 (s, 3H), 2.43 (s, 3H), 2.39 (s, 3H), 1.51 (t, 3H); MS (ESI) 311 (M+H)+.

reactant | 1-chloro-6-(4-ethoxyphenyl)-4,5,7-trimethyl-6H-pyrrolo[3,4-d]pyridazine | 0.64 mmol, 200 mg | ClC1=NN=C(C=2C1=C(N(C2C)C2=CC=C(C=C2)OCC)C)C | C17H18ClN3O
reactant | MeNH2 | 1 mL | CN | CH5N
reactant | EtOH | 1 mL | CCO | C2H6O
solvent | water | O | H2O
product | 6-(4-ethoxyphenyl)-N,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazin-1-amine | C(C)OC1=CC=C(C=C1)N1C(=C2C(=NN=C(C2=C1C)C)NC)C | C18H22N4O
